US06726966B2
In 400 ml of water, 21.7 g of 5-bromosalicylic acid, 13.41 g of phenylboric acid and 15.28 g of potassium carbonate were dissolved. The solution was stirred at room temperature for 40 minutes. After the completion of the reaction was confirmed with TLC, the reaction liquid was poured into a mixed medium of diluted hydrochloric acidethyl acetate. The mixture was extracted, and the organic phase was collected and washed with saturated sodium chloride aqueous solution. After dried with magnesium sulfate, the liquid was concentrated to form a crude product. The product was recrystallized from acetonitrile to obtain 18.58 g of 5-phenylsalicylic acid in the form of colorless crystallites. The yield was 87%. The product was confirmed with NMR and mass spectroscopy.

reactant | 5-bromosalicylic acid | 21.7 g | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | phenylboric acid | 13.41 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | potassium carbonate | 15.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acidethyl acetate | C(C)OC(C)=O.Cl
solvent | water | 400 ml | O | H2O
product | 5-phenylsalicylic acid | 18.58 g, yield was 87% | C1(=CC=CC=C1)C1=CC=C(C(C(=O)O)=C1)O | C13H10O3
